US09212182B2
A MeOH solution of (E)-ethyl 3-(5-(benzylthio)-2-((6-(3-fluorophenyl)-4-methoxypyridin-3-yl)amino)phenyl)acrylate (0.615 g, 1.195 mmol) and tributylphosphine (0.060 ml, 0.239 mmol) in a 40-mL vial was stirred overnight at 70° C. Sodium methoxide, 25 wt % solution in methanol (0.106 ml, 0.478 mmol) was then added. After stirring for 2 h, the reaction was concentrated under a stream of N2 and purified via column chromatography (50 g Snap Ultra column, 0% to 100% EtOAc/hept) to afford 6-(benzylthio)-1-(6-(3-fluorophenyl)-4-methoxypyridin-3-yl)quinolin-2(1H)-one (186.7 mg, 0.398 mmol, 33.3% yield) as a yellow amorphous solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.92 (s, 3 H) 4.26 (s, 2 H) 6.60 (d, J=8.81 Hz, 1 H) 6.72 (d, J=9.53 Hz, 1 H) 7.20-7.39 (m, 6 H) 7.42 (dd, J=8.81, 2.18 Hz, 1 H) 7.61 (dd, J=8.03, 1.92 Hz, 1 H) 7.83 (d, J=2.18 Hz, 1H) 7.90 (s, 1H) 8.00 (d, J=9.43 Hz, 1 H) 8.04-8.09 (m, 1 H) 8.09-8.13 (m, 1 H) 8.45 (s, 1 H). m/z (ESI) 469.2 (M+H)+.

reactant | (E)-ethyl 3-(5-(benzylthio)-2-((6-(3-fluorophenyl)-4-methoxypyridin-3-yl)amino)phenyl)acrylate | 1.195 mmol, 0.615 g | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC=1C=NC(=CC1OC)C1=CC(=CC=C1)F | C30H27FN2O3S
reactant | tributylphosphine | 0.239 mmol, 0.060 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | Sodium methoxide | C[O-].[Na+]
solvent | MeOH | CO | CH4O
solvent | methanol | 0.478 mmol, 0.106 ml | CO | CH4O
product | 6-(benzylthio)-1-(6-(3-fluorophenyl)-4-methoxypyridin-3-yl)quinolin-2(1H)-one | 0.398 mmol, 186.7 mg, 33.3% yield | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C=1C=NC(=CC1OC)C1=CC(=CC=C1)F)=O | C28H21FN2O2S
